US07582775B2
Preparation of 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid dimethylamide
A solution of 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid (210 mg, 0.464 mmol) in CH2Cl2 (5.0 mL) is treated with Et3N (1.0 mL), HOBT (94 mg, 0.70 mmol), and EDC (134 mg, 0.70 mmol). The mixture is stirred for 10 min at RT, and dimethylamine (1.0 mL, 2.0 M in THF) is added. The reaction mixture is stirred for 18 h, loaded onto a silica gel column, and eluted with 65% EtOAc/Hex to afford the title compound (90 mg, 41%).

reactant | 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid | 0.464 mmol, 210 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC2=C(S1)C=CC(=C2)C(=O)O)C)=O)(C)C | C27H32O4S
reactant | HOBT | 0.70 mmol, 94 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.70 mmol, 134 mg
reactant | dimethylamine | 2.0 M, 1.0 mL | CNC | C2H7N
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 1.0 mL | CCN(CC)CC | C6H15N
product | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid dimethylamide | 90 mg, 41% | CN(C(=O)C1=CC2=C(SC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C=C1)C | C29H37NO3S
